US09302991B2
<Step-1>:2-chloro-6-(2,2,2-trifluoroethoxy)nicotinic acid
A mixture of 2,6-dichloronicotinic acid (3.0 g, 15.6 mmol) and potassium tert-butoxide (5.26 g, 46.9 mmol) in 2,2,2-trifluoroethanol (52 mL) is refluxed with stirring for 5 days. After removal of solvent, the residue is dissolved in water (40 mL) then 2M hydrochloric acid (10 mL) is added. White precipitate is filtrated and dried to give 4.08 g of the title compound including 6-chloro-2-(2,2,2-trifluoroethoxy)nicotinic acid and 2,6-bis(2,2,2-trifluoroethoxy)nicotinic acid as a white solid. This material is used for the next reaction (Step-2) without further purification.

reactant | 2,6-dichloronicotinic acid | 15.6 mmol, 3.0 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | potassium tert-butoxide | 46.9 mmol, 5.26 g | CC(C)([O-])C.[K+]
reactant | 2,2,2-trifluoroethanol | 52 mL | FC(CO)(F)F | C2H3F3O
product | 2-chloro-6-(2,2,2-trifluoroethoxy)nicotinic acid | 4.08 g | ClC1=C(C(=O)O)C=CC(=N1)OCC(F)(F)F | C8H5ClF3NO3
